US05475020
(i) 1-Methyl-3-(2-oxoethyl)-2-pyrrolidinone
A solution of dimethylsulphoxide (1.7 ml) in dichloromethane (10 ml) was added dropwise over 5 min to a stirred solution of oxalyl chloride (1.0 ml) in dichloromethane (20 ml) at - 72° under nitrogen. The resultant solution was stirred at - 72° for 5 min then a suspension of 3-(2-hydroxyethyl)-1-methyl-2-pyrrolidinone (1.30 g) in dichloromethane (10 ml) and dimethylsulphoxide (1 ml; added to improve dissolution of the alcohol) was added dropwise over 8 min. The resultant cloudy solution was stirred at - 72° for 15 min then treated with triethylamine (7.0 ml). The resultant suspension was warmed to room temperature and stirred at room temperature for 1 h. The suspension was filtered. The residue was washed with ethyl acetate. The combined filtrate and washings were evaporated to give a semi-solid which was chromatographed using a mixture of ethyl acetate and methanol (5:1) as the eluent, to give the title compound (743 mg).

reactant | oxalyl chloride | 1.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-(2-hydroxyethyl)-1-methyl-2-pyrrolidinone | 1.30 g | OCCC1C(N(CC1)C)=O | C7H13NO2
reactant | triethylamine | 7.0 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dimethylsulphoxide | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 1.7 ml | CS(=O)C | C2H6OS
product | 1-Methyl-3-(2-oxoethyl)-2-pyrrolidinone | 743 mg | CN1C(C(CC1)CC=O)=O | C7H11NO2
